US07411072B2
(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidene)-(3-methanesulfonylamino-phenyl)-acetic acid
Treat (10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidene)-(3-methanesulfonylamino-phenyl)-acetic acid ethyl ester with a 50:50 mixture of 1N NaOH and ethanol and heat under reflux conditions for 14 hours. Acidify with 1N HCl and collect the solid by filtration and dry. Purify by reverse phase HPLC to obtain a 20% yield of the title compound. MS(ES)=437(+NH3)

reactant | (10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidene)-(3-methanesulfonylamino-phenyl)-acetic acid ethyl ester | C(C)OC(C(C1=CC(=CC=C1)NS(=O)(=O)C)=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2)=O | C26H25NO4S
reactant | NaOH | 1N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | (10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidene)-(3-methanesulfonylamino-phenyl)-acetic acid | 20% yield | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=C(C(=O)O)C3=CC(=CC=C3)NS(=O)(=O)C | C24H21NO4S
